US04788207
Under a dry nitrogen atmosphere 3.0 grams (0.031 mole) of trimethylsilylacetylene was added to a stirred mixture of 5.5 grams (0.025 mole) of 2-iodo-5-methylthiophene in 50 ml of triethylamine. To this mixture was added approximately 0.05 gram of dichlorobis(triphenylphosphine)palladium (II) and approximately 0.05 gram of copper (I) iodide. The resultant mixture was stirred at room temperature for approximately 18 hours. The triethylamine was removed from the mixture by evaporation under reduced pressure leaving a residue. This residue was dissolved in diethyl ether and the resultant solution was washed in succession with an aqueous, 10% ammonium chloride solution, water, and an aqueous, saturated sodium chloride solution. The washed organic solution was dried over anhydrous sodium sulfate and was filtered. The filtrate was evaporated under reduced pressure leaving a residue. This residue was purified by column chromatography on silica gel, eluting with n-hexane, to yield 4.5 grams of 1-trimethylsilyl-2-(5-methylthien-2-yl)ethyne as an oil.

reactant | trimethylsilylacetylene | 0.031 mole, 3.0 grams | C[Si](C)(C)C#C | C5H10Si
reactant | 2-iodo-5-methylthiophene | 0.025 mole, 5.5 grams | IC=1SC(=CC1)C | C5H5IS
solvent | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | dichlorobis(triphenylphosphine)palladium | approximately 0.05 gram | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | approximately 0.05 gram | [Cu]I
product | 1-trimethylsilyl-2-(5-methylthien-2-yl)ethyne | 4.5 grams | C[Si](C#CC=1SC(=CC1)C)(C)C | C10H14SSi
